US07842713B2
Preparation of Intermediate 33a: Azetidin-1-yl-(2,4-difluoro-phenyl)-methanone
To a solution of 2,4-difluorobenzoyl chloride (1.14 g, 6.46 mmol) in CH2Cl2 was added azetidine hydrochloride (1.46 g, 15.6 mmol) and Et3N (2.70 mL, 19.4 mmol). The reaction mixture was stirred at room temperature for 1 hr, quenched with H2O (100 mL), and extracted with CH2Cl2 (2×100 mL). The organic layers were dried over MgSO4 and concentrated to give an off-white solid (896 mg, 76% yield) which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.52-7.59 (m, 1 H) 6.91-6.98 (m, 1 H) 6.81-6.87 (m, 1 H) 4.21 (t, J=7.71 Hz, 2 H) 4.11 (t, J=7.71 Hz, 2 H) 2.30-2.38 (m, 2 H).

reactant | 2,4-difluorobenzoyl chloride | 6.46 mmol, 1.14 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | azetidine hydrochloride | 15.6 mmol, 1.46 g | Cl.N1CCC1
reactant | Et3N | 19.4 mmol, 2.70 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Azetidin-1-yl-(2,4-difluoro-phenyl)-methanone | 896 mg, 76% yield | N1(CCC1)C(=O)C1=C(C=C(C=C1)F)F | C10H9F2NO
